US06245790B1
To a solution of methyl 3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}-2-methylbenzoate (100 mg) in MeOH-1,4-dioxane (1:2, 4.5 ml) was added iN NaOH solution (1.0 ml) and the mixture was stirred at 70° C. for 1 hour. After cooling, the mixture was acidified with iN HCl and extracted with EtOAc. The organic layer was washed with water and brine, dried over magnesium sulfate, evaporated in vacuo to give 3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]-methyl}-2-methylbenzoic acid (97.0 mg) as a solid.

reactant | methyl 3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}-2-methylbenzoate | 100 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCCC1)CC=1C(=C(C(=O)OC)C=CC1)C | C31H29NO3
solvent | MeOH 1,4-dioxane | 4.5 ml | CO.O1CCOCC1
solvent | NaOH | 1.0 ml | [OH-].[Na+]
solvent | HCl | Cl | ClH
product | 3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]-methyl}-2-methylbenzoic acid | 97.0 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCCC1)CC=1C(=C(C(=O)O)C=CC1)C | C30H27NO3
